US08871766B2
(4-(2,4-difluorobenzyl)-4-hydroxypiperidin-1-yl) (2-(1,3-oxazol-5-yl)phenyl)methanone
A suspension of 2-(1,3-oxazol-5-yl)benzoic acid (0.15 g), 4-(2,4-difluorobenzyl)-4-hydroxypiperidine hydrochloride (0.16 g), HATU (0.36 g) and triethylamine (1.1 mL) in DMF (5.0 mL) was stirred overnight at room temperature. The reaction mixture was diluted with water, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.26 g).

reactant | 2-(1,3-oxazol-5-yl)benzoic acid | 0.15 g | O1C=NC=C1C1=C(C(=O)O)C=CC=C1 | C10H7NO3
reactant | 4-(2,4-difluorobenzyl)-4-hydroxypiperidine hydrochloride | 0.16 g | Cl.FC1=C(CC2(CCNCC2)O)C=CC(=C1)F
reactant | HATU | 0.36 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 1.1 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (4-(2,4-difluorobenzyl)-4-hydroxypiperidin-1-yl) (2-(1,3-oxazol-5-yl)phenyl)methanone | 0.26 g | FC1=C(CC2(CCN(CC2)C(=O)C2=C(C=CC=C2)C2=CN=CO2)O)C=CC(=C1)F | C22H20F2N2O3
